US09029538B2
3-(4-Fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3-methyl-phenyl]-amide.
This compound was synthesized using 4-(6,7-dimethoxy-quinolin-4-yloxy)-3-methylphenylamine and 3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid using the procedure for example 1. mp=240-242° C.; LCMS m/z=543 (M+1); 1H NMR (CDCl3) δ: 10.74 (s, 1H), 8.61 (s, 1H), 8.45 (d, 1H, J=5 Hz), 7.63-7.61 (m, 1H), 7.60 (s, 1H), 7.58-7.53 (m, 1H), 7.44 (s, 1H), 7.29-7.26 (m, 3H), 7.08 (d, 1H, J=10 Hz), 6.30 (d, 1H, J=5 Hz), 5.30 (s, 1H), 4.05 (d, 6H, J=5 Hz), 2.05 (s, 3H).

reactant | 4-(6,7-dimethoxy-quinolin-4-yloxy)-3-methylphenylamine | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)C | C18H18N2O3
reactant | 3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | FC1=CC=C(C=C1)N1C(NC=C(C1=O)C(=O)O)=O | C11H7FN2O4
product | 3-(4-Fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3-methyl-phenyl]-amide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(C(NC1)=O)C1=CC=C(C=C1)F)=O)C | C29H23FN4O6
